US09340546B2
To a solution of 3-chloro-5-fluoro-4-iodo-pyridine (1 g, 3.885 mmol) in NMP (1 mL) was added DIPEA (753.1 mg, 1.015 mL, 5.828 mmol) and piperidin-4-ol (589.4 mg, 5.828 mmol) and the mixture heated to 120° C. for 4 hours. The mixture was diluted with ethyl acetate (30 ml), washed twice with water (20 ml) and with brine. The organic layer was dried with MgSO4 and concentrated in vacuo to a yellow solid that was purified by column chromatography using DCM and then 2% MeOH/DCM as eluent, yielding 1-(3-chloro-5-fluoro-4-pyridyl)piperidin-4-ol. MS (ES+) 231.0.

reactant | 3-chloro-5-fluoro-4-iodo-pyridine | 3.885 mmol, 1 g | ClC=1C=NC=C(C1I)F | C5H2ClFIN
reactant | DIPEA | 5.828 mmol, 1.015 mL, 753.1 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | piperidin-4-ol | 5.828 mmol, 589.4 mg | N1CCC(CC1)O | C5H11NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-chloro-5-fluoro-4-pyridyl)piperidin-4-ol | ClC=1C=NC=C(C1N1CCC(CC1)O)F | C10H12ClFN2O
